US07259183B2
Preparation of 2,2-dimethyl-benzo[1,3]dioxole-5-carbaldehyde
The title compound was synthesized in analogy to 4-cyclopropyl benzaldehyde (described in example S53) using 420 mg of 5-bromo-2,2-dimethyl-benzo[1,3]dioxole [CAS 73790-19-9] (1.83 mmol), 1.38 ml of a 1.6 molar solution of n-BuLi in hexane (2.20 mmol) and 712 μl of DMF (9.17 mmol). The isolated residue was purified by flash column chromatography (1:9 ether/pentane) to give 270 mg of 2,2-dimethyl-benzo[1,3]dioxole-5-carbaldehyde (83%) as a light yellow liquid. 1H NMR (CDCl3, 300 MHz): δ 1.72 (s, 6H), 6.84 (d, J=7.8 Hz, 1H), 7.26 (s, 1H), 7.87 (dd, J=8.0 and 1.7 Hz, 1H), 9.97 (s, 1H).

reactant | 4-cyclopropyl benzaldehyde | C1(CC1)C1=CC=C(C=O)C=C1 | C10H10O
reactant | 5-bromo-2,2-dimethyl-benzo[1,3]dioxole | 1.83 mmol, 420 mg | BrC1=CC2=C(OC(O2)(C)C)C=C1 | C9H9BrO2
reactant | n-BuLi | [Li]CCCC
reactant | hexane | 2.20 mmol | CCCCCC | C6H14
reactant | DMF | 9.17 mmol, 712 μl | CN(C)C=O | C3H7NO
product | 2,2-dimethyl-benzo[1,3]dioxole-5-carbaldehyde | 270 mg, 83% | CC1(OC2=C(O1)C=CC(=C2)C=O)C | C10H10O3
